US07384967B2
To a mixture of 2M aq NaHCO3 (5 mL) and 1-(2-cyclopentanecarbonyl-4-methyl-phenyl)-3-(5-formyl-thiazol-2-yl)-urea (72 mg, 0.2 mmol) in THF (5 mL) was added hydroxylamine hydrochloride (200 mg) at room temperature with stirring. The resulting mixture was heated at 60° C. for 12 h. The reaction mixture was cooled, acidified to pH 6.5 (citric acid) and extracted with ethyl acetate. The organic layer was washed (brine), dried (Na2SO4) and concentrated to obtain {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylmethyleneaminooxy}-acetic acid (56 mg, 76%) as a mixture of syn and antiisomers.

reactant | NaHCO3 | 2M, 5 mL | C(=O)(O)[O-].[Na+]
reactant | 1-(2-cyclopentanecarbonyl-4-methyl-phenyl)-3-(5-formyl-thiazol-2-yl)-urea | 0.2 mmol, 72 mg | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)C=O | C18H19N3O3S
reactant | hydroxylamine hydrochloride | 200 mg | Cl.NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylmethyleneaminooxy}-acetic acid | 56 mg, 76% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC(=CN1)C=NOCC(=O)O)=O | C20H22N4O5S
